US07351827B2
A solution of 4-benzyloxymethyl-2-methyleneoxetane (0.19 g, 0.98 mmol) in dry CH2Cl2 (2 mL), was cooled to −78° C. Dimethyldioxirane (0.5M in CH2Cl2, 2 eq) was added dropwise to the stirred solution. The reaction mixture was stirred for 1 hour more, then quickly warmed to room temperature, and, subsequently, the solvent was removed in vacuo. 2-Benzyloxymethyl-1,5-dioxaspiro[3.2]hexane was isolated as pale yellow oil (0.19 g, 95%) and as a mixture of diastereoisomers (72:28). Major diastereomer: 1H NMR (400 MHz, CDCl3) δ 7.30 (m, 5H), 4.83 (m, 1H), 4.67 (d, J=12.2 Hz, 1H), 4.62 (d, J=12.2 Hz, 3H), 3.71 (m, 2H), 3.06 (dd, J=12.6, 2.7 Hz, 1H), 3.04 (dd, J=12.6, 4.2 Hz, 1H), 2.93 (d, J=3.3 Hz, 1H), 2.71 (d, J=3.3 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ 138.2, 128.6, 127.9, 127.8, 89.0, 73.8, 73.5, 72.1, 51.4, 31.4. Minor diastereomer: 1H NMR (400 MHz, CDCl3) δ 7.30 (m, 5H), 4.70 (m, 1H), 3.71 (m, 2H), 3.19 (dd, J=12.6, 7.2 Hz, 1H), 2.94 (d, J=3.6 Hz, 1H), 2.88 (dd, J=12.7, 5.6 Hz, 1H), 2.75 (d, J=3.4 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ 138.2, 128.6, 127.9, 127.8, 88.2, 73.9, 72.6, 72.5, 51.3, 31.6.

reactant | 4-benzyloxymethyl-2-methyleneoxetane | 0.98 mmol, 0.19 g | C(C1=CC=CC=C1)OCC1CC(O1)=C | C12H14O2
reactant | Dimethyldioxirane | 0.5M, 2 eq | CC1(OO1)C | C3H6O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzyloxymethyl-1,5-dioxaspiro[3.2]hexane | C(C1=CC=CC=C1)OCC1OC2(C1)OC2 | C12H14O3
